US08685970B2
Step 2) Preparation of N-(2-phenylquinolin-8-yl)pyrazine-2-carboxamide
2-Phenylquinolin-8-amine (60 mg, 0.27 mmol) was taken up in 2 mL of DMF along with pyrazine-2-carboxylic acid (34 mg, 0.27 mmol), HATU (207 mg, 0.54 mmol) and DIEA (95 μL, 0.54 mmol). The reaction mixture was stirred at room temperature for 18 h. It was then diluted with EtOAc and washed with water. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The resulting residue was purified by preparative HPLC (using aqueous CH3CN that has been buffered with 0.1% TFA) to afford 10 mg of the product. MS (ESI) calcd for C20H14N4O (m/z): 326.12. found: 327 [M+1].

reactant | 2-Phenylquinolin-8-amine | 0.27 mmol, 60 mg | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1)N | C15H12N2
reactant | pyrazine-2-carboxylic acid | 0.27 mmol, 34 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | HATU | 0.54 mmol, 207 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.54 mmol, 95 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-phenylquinolin-8-yl)pyrazine-2-carboxamide | 10 mg | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1)NC(=O)C1=NC=CN=C1 | C20H14N4O
